US08314098B2
Synthesis of N-{2-(4-chlorophenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine (Compound 13)
There was suspended, in ethanol (2 mL), 5-chloro-2-(4-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (50.0 mg, 0.143 mM) and then potassium carbonate (21.7 mg, 0.157 mM) and hydrazine monohydrate (69.4 μL, 1.43 mM) were added to the suspension. This suspension was stirred at 150° C. for 20 minutes, while applying microwaves to the same. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined together and then dried over anhydrous sodium sulfate and the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (17.0 μL, 0.144 mM) were added to the suspension and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to give the title compound (36.8 mg, overall yield of these two steps: 58%).

reactant | 5-chloro-2-(4-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.143 mM, 50.0 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)Cl | C16H14Cl2N4O
reactant | potassium carbonate | 0.157 mM, 21.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 1.43 mM, 69.4 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-{2-(4-chlorophenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine | ClC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)=C1 | C24H23ClN6O
